US05190723
(3-Tertbutyl-5-methyl-4-hydroxybenzyl)-benzoxazolin-2-thione
2-Mercaptobenzoxazole (10.96 g, 0.073 mol), 2-tertbutyl-6-methylphenol (11.9 g, 0.073 mol), paraformaldehyde (2.18 g, 0.073 mol) and di-n-butylamine (0.5 ml) are heated to 120° C. After two hours, the reaction mixture solidifies. The solid mass is crystallised from ethanol to yield a white solid (19.8 g, 84% of theory) of m.p. 155°-157° C. (Found N=4.17; C19H21NO2S requires N=4.28%).

reactant | 2-Mercaptobenzoxazole | 0.073 mol, 10.96 g | SC=1OC2=C(N1)C=CC=C2 | C7H5NOS
reactant | 2-tertbutyl-6-methylphenol | 0.073 mol, 11.9 g | C(C)(C)(C)C1=C(C(=CC=C1)C)O | C11H16O
reactant | paraformaldehyde | 0.073 mol, 2.18 g | C=O | CH2O
reactant | di-n-butylamine | 0.5 ml | C(CCC)NCCCC | C8H19N
product | (3-Tertbutyl-5-methyl-4-hydroxybenzyl)-benzoxazolin-2-thione | C(C)(C)(C)C=1C=C(CC2=CC=CC3=C2NC(O3)=S)C=C(C1O)C | C19H21NO2S
